US05021443
A solution of 139.2 g of the acid chloride ethyl ester of 3,3-dimethylglutaric acid, prepared in Example 28, in 125 ml of chloroform, stabilized with amylene, is added dropwise, at a temperature of between 5° C. and 10° C., to a solution of 72.8 g of orthophenylenediamine and 112 ml of triethylamine in 1 l of anhydrous tetrahydrofuran. The mixture is stirred at 0° C. for two hours and then at 50° C. for one hour; the crystals are filtered off and the solvents are evaporated off under vacuum. The residue is taken up in 4.4 l of ethanol and 444 ml of concentrated hydrochloric acid and the mixture is refluxed for 12 hours. The solvents are evaporated off and the residue is taken up with water and then neutralized with a 1 N solution of sodium hydroxide and extracted with ether. The ether phase is dried and then evaporated under vacuum to give 99 g of ethyl 4-(benzimidazol-2-yl)- 3,3-dimethylbutanoate in the form of crystals melting at 123° C.

reactant | 3,3-dimethylglutaric acid | CC(CC(=O)O)(CC(=O)O)C | C7H12O4
reactant | amylene | CC=C(C)C | C5H10
reactant | orthophenylenediamine | 72.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | triethylamine | 112 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | ethyl 4-(benzimidazol-2-yl)- 3,3-dimethylbutanoate | 99 g | N1=C(NC2=C1C=CC=C2)CC(CC(=O)OCC)(C)C | C15H20N2O2
